US07247646B2
Synthesis of 8-acetyl-3-(2,4-dichlorophenyl)-7-hydroxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one
A mixture of 3-(2,4-dichlorophenyl)-7-hydroxy-8-iodo-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one (187 mg, 0.294 mmol), tributyl(1-ethoxyvinyl)tin (119 μL, 0.353 mmol) and Pd(Ph3P)4 (34 mg, 0.0294 mmol) in anhydrous dioxane (6 mL) was stirred at reflux temperature for 2 h. After cooling to room temperature, aqueous 1M HCl was added, and the resulting mixture was stirred for 20 min. CH2Cl2 was added and the layers were separated. The aqueous layer was further extracted with CH2Cl2 (2×). The combined organic layers were dried (MgSO4) and concentrated in vacuo. The resultant residue was purified using flash chromatography (silica gel, 19:1→9:1 CH2Cl2:MeOH) to afford a light brown solid (48 mg, 84% pure by HPLC) that was recrystallized from AcOEt/hexane to provide the title compound as a yellow solid (22 mg, 14%).

reactant | 3-(2,4-dichlorophenyl)-7-hydroxy-8-iodo-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | 0.294 mmol, 187 mg | ClC1=C(C=CC(=C1)Cl)C=1C(OC2=C(C(=CC=C2C1CC1=CC=C(C=C1)OCCN1CCCC1)O)I)=O | C28H24Cl2INO4
reactant | tributyl(1-ethoxyvinyl)tin | 0.353 mmol, 119 μL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | HCl | 1M | Cl | ClH
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.0294 mmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-acetyl-3-(2,4-dichlorophenyl)-7-hydroxy-4-(4-(2-pyrrolidin-1-yl-ethoxy)-benzyl)-chromen-2-one | 22 mg, 14% | C(C)(=O)C=1C(=CC=C2C(=C(C(OC12)=O)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)OCCN1CCCC1)O | C30H27Cl2NO5
